US06426345B1
To a solution of morpholine (5.0 ml) in dichloromethane (50 ml) was added 3-nitrobenzoyl chloride (5.05 g). The mixture was stirred at room temperature for 15 minutes, then poured into a mixture of ethyl acetate and water. The organic phase was separated, washed with dilute hydrochloric acid, sodium bicarbonate and brine, dried over magnesium sulfate and concentrated to give 4-(3-nitrophenylcarbonyl)morpholine (6.46 g).

reactant | morpholine | 5.0 ml | N1CCOCC1 | C4H9NO
reactant | 3-nitrobenzoyl chloride | 5.05 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(3-nitrophenylcarbonyl)morpholine | 6.46 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)N1CCOCC1 | C11H12N2O4
